US05688798
A solution of 0.14 g (0.00086 mol) of 1-phenyl-piperazine in 10 ml of tetrahydrofuran was treated with 0.6 ml (0.0043 mol) of triethylamine and 0.24 g (0.00086 mol) of 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide and the mixture was stirred at room temperature under argon for 16 hours. The suspension obtained was suction filtered and the filtrate was completely freed from the solvents. The residue was chromatographed over silica gel with acetonitrile/methanol 1:1 as the eluent and digested in diethyl ether. 0.14 g (57%) of 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine was obtained as white crystals; m.p. 263°-265°. A further 0.04 g of yellowish crystals was recovered from the mother liquor.

reactant | 1-phenyl-piperazine | 0.00086 mol, 0.14 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 0.0043 mol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide | 0.00086 mol, 0.24 g | Br.Br.BrCC=1C(=NC(=NC1)N)N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine | 0.14 g, 57% | C1(=CC=CC=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C15H20N6
